US04608079
A solution containing 6-[(1-carbamoyl-1,2-dimethylpropyl)carbamoyl]furo[2,3-b]pyridine-5-carboxylic acid (3.8 g, 0.012 mol) in aqueous sodium hydroxide 2.4 g, 0.06 mol) in water (40 mL) is stirred at 65° C. for three hours. The reaction mixture is then heated at 75° C. for one hour, allowed to cool, poured into ice, acidified to pH 2-3 and the resulting solid filtered off and dried. Crystallization from an acetone-methanol mixture affords pure 6-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)furo[2,3-b]pyridine-5-carboxylic acid mp 237°-244° C.

reactant | 6-[(1-carbamoyl-1,2-dimethylpropyl)carbamoyl]furo[2,3-b]pyridine-5-carboxylic acid | 0.012 mol, 3.8 g | C(N)(=O)C(C(C)C)(C)NC(=O)C1=C(C=C2C(=N1)OC=C2)C(=O)O | C15H17N3O5
reactant | sodium hydroxide | 0.06 mol, 2.4 g | [OH-].[Na+]
solvent | water | 40 mL | O | H2O
product | 6-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)furo[2,3-b]pyridine-5-carboxylic acid | C(C)(C)C1(N=C(NC1=O)C1=C(C=C2C(=N1)OC=C2)C(=O)O)C | C15H15N3O4
